US07910740B2
(5,6-Dihydro-4H-cyclopentathiazol-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from 40 mg (0.33 mmol) 2-chlorocyclopentanone and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea in ethanol (1.5 ml) and dioxane (1.5 ml). The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 41 mg (42%) (5,6-dihydro-4H-cyclopentathiazol-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a light yellow solid. MS ISP (m/e): 327.3 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.25 (s, 1H), 7.64 (s, 1H), 7.44 (s, 1H), 7.32 (d, 1H), 7.23 (d, 1H), 7.01 (s, 1H), 3.78 (s, 3H), 2.78 (br t, 2H), 2.67 (br t, 2H), 2.35 (m, 2H), 2.14 (s, 3H).

reactant | 2-chlorocyclopentanone | 0.33 mmol, 40 mg | ClC1C(CCC1)=O | C5H7ClO
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | (5,6-Dihydro-4H-cyclopentathiazol-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | S1C(=NC2=C1CCC2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C17H18N4OS
